US07144885B2
Preparation of 2-bromo-1-(3-ethyl-pyrazin-2-yl)-ethanone
To a solution of 2-acetyl-3-ethylpyrazine (1.0 g, 6.66 mmol) in chloroform (15 mL) was added Br2 (0.38 mL, 7.32 mmol, 1.1 eq) dropwise at 0° C. The reaction mixture was stirred at 40° C. for 4 h. The reddish solution turned to dark brown. The reaction mixture was concentrated in vacuo and used in the step 2 without further purification. MS LC-MS (MH+=231).

reactant | 2-acetyl-3-ethylpyrazine | 6.66 mmol, 1.0 g | C(C)(=O)C1=NC=CN=C1CC | C8H10N2O
reactant | Br2 | 7.32 mmol, 0.38 mL, 1.1 eq | BrBr | Br2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-(3-ethyl-pyrazin-2-yl)-ethanone | BrCC(=O)C1=NC=CN=C1CC | C8H9BrN2O
